* C:\Users\snk27\Documents\GitHub\SPICE_models\spd_sq\spd_sq.asc
I1 N007 0 PULSE(0 1u 10n 10p 10p 100p 10n 20)
XX1 N003 N007 0 0 spd_mosi params: num_sq=515.6, width=120n
I2 0 P001 20µ
R1 N004 N003 36.8
L1 N004 0 1.46E-09
L2 N005 0 0.5E-11
XU1 N005 N006 JJ I_c=100u R_tot=4 L_rjs=0.01p C_jj=102f phi0=0
XU2 N006 N008 JJ I_c=100u R_tot=4 L_rjs=0.01p C_jj=102f phi0=0
I3 0 P002 200µ
R2 P001 N003 50
R3 P002 N006 50
R4 out N006 50
B1 av 0 V=idt(V(out)-absdelay(V(out),.5n))/.5n
L3 0 N008 0.5E-11
C1 N001 av 100n
R5 N001 0 1m
R6 N002 N001 100m
C2 N002 0 10µ

* block symbol definitions
.subckt spd_mosi drain gate gatereturn source
L1 drain N1 Flux=({Lind}/(2.0*cos(0.67*asin(0.6*x/{Isw}))-1))*x Rser=1e-100
R1 N1 source {Rnorm}
R2 gate gatereturn 1e-100
R3 N2 0 1
C1 N3 0 {(width)/(2*sheetres*vo)}
S1 N3 0 N2 0 Srestore OFF
B1 N1 source V=(v(N3)+abs(v(N3)))/2*i(L1)
B2 N2 0 V=if((abs(i(L1))>Isw-gain*abs(i(R2)))|(abs(v(N1)-v(source))>{Vthresh}),1,0)
B3 0 N3 I=if(v(N2),(psi*(i(L1)/Isw)**2-2)/((sqrt(((psi*(i(L1)/Isw)**2-1)+abs(psi*(i(L1)/Isw)**2-1))/2)+delta)),0)
.PARAM kinetic_inductance=160e-12
.PARAM  thickness=4.1n
.PARAM sheetRes=400
.PARAM Tc=10.5
.PARAM  Tsub=2
.PARAM Jc=50G
.PARAM C=1
.PARAM Lind={num_sq*kinetic_inductance}
.PARAM Isw={Jc*width*thickness*C}
.PARAM length={num_sq*width}
.PARAM kappa = 0.108
.PARAM heatCapacity = 4400
.PARAM hc = 50k
.PARAM minSquares = {1/sheetRes}
.PARAM Rnorm = {sheetRes*num_sq}
.PARAM psi={sheetRes*(Jc*thickness)**2/
+(hc*(Tc-Tsub))}
.PARAM vo={sqrt(hc*kappa/thickness)/
+heatCapacity}
.PARAM Ihs={sqrt(2/psi)*Isw}
.PARAM Vthresh={minSquares*sheetRes*Ihs}
.PARAM rho={sheetRes*thickness}
.PARAM gain={10}
.PARAM delta={0.005}
.model Srestore SW(Vt={0.5V} Roff=1m Ron=10G)
.ends spd_mosi

.tran 0 100n 0 1p
K1 L1 L2 0.42
.lib JJ.lib
.backanno
.end
